US04897401
A mixture of 0.7 parts of isocyanatomethane, 2.5 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-amine and 135 parts of tetrahydrofuran was stirred for 3 hours at room temperature. The precipitated product was filtered off and dried, yielding 1.2 parts (41.1%) of N-methyl-N'-[2-[4-[[1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]urea; mp. 200.1° C. (compound 40).

reactant | isocyanatomethane | N(=C=O)C | C2H3NO
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC=1OC(=CC1)C)C=CC=C2 | C20H27N5O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-methyl-N'-[2-[4-[[1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]urea | 41.1% | CNC(=O)NCCN1CCC(CC1)NC1=NC2=C(N1CC=1OC(=CC1)C)C=CC=C2 | C22H30N6O2
